US08623896B2
To a solution of 4-(hydroxyimino-methyl)-2-trifluoromethyl-benzoic acid methyl ester (Example I11) (3.90 g) in N,N-dimethylformamide (20 ml) was added N-chlorosuccinimide (“NCS”) (2.318 g). The reaction mixture was stirred at ambient temperature for 45 minutes. The reaction mixture was poured into water (400 ml). The solids were isolated by filtration and dried to give 4-(chloro(hydroxyimino)methyl)-2-trifluoromethyl-benzoic acid methyl ester (4.21 g) as an off-white powder. 1H-NMR (CDCl3, 400 MHz): 9.00 (s, 1H), 8.24-8.04 (m, 3H), 3.96 (s, 3H).

reactant | 4-(hydroxyimino-methyl)-2-trifluoromethyl-benzoic acid methyl ester | 3.90 g | COC(C1=C(C=C(C=C1)C=NO)C(F)(F)F)=O | C10H8F3NO3
reactant | N-chlorosuccinimide | 2.318 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | 400 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(chloro(hydroxyimino)methyl)-2-trifluoromethyl-benzoic acid methyl ester | 4.21 g | COC(C1=C(C=C(C=C1)C(=NO)Cl)C(F)(F)F)=O | C10H7ClF3NO3
